Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
elective admission for HD-MTX
 
Major Surgical or Invasive Procedure:
___ line placement ___
 
History of Present Illness:
___ yo woman with DLBCL with CNS involvement admitted electively 
for cycle #2 HD-MTX.
Pt was first diagnosed with DLBCL lymphoma involving her leg and 
brain in ___. She underwent SRS to the brain followed by R-CHOP 
x 6 cycles. Repeat imaging of the CNS showed recurrence of 
disease. Pt received the first cycle of HD-MTX in ___ with 
overall good tolerance except for pan-cytopenia requiring a 
transfusion of 1 PRBCs and n/v/fatigue.
Today, pt reports that she is feeling well. Her daughter notes 
over the weekend she had a brief episode of confusion. She 
denies fevers, chills, nausea,vominting, headaches/ visual 
changes/muscle weakness/memory changes/sensory chanegs, cp,sob, 
abdominal pain, dysuria or frequency.She has chronic 
constipation which is overall controlled with current regimen.  
She remains non-weight bearing to left leg but has no leg pain 
or other pains.All other ROS are negative.
 

 
Past Medical History:
- Diffuse large B cell lymphoma
- Glaucoma  
- DM2 seen by ___  
- Chronic kidney disease  
- Hyperlipidemia  
- Hypertension  
- Osteoarthritis  
- Iron def anemia  
- s/p bilateral TKR
Oncologic History:
___ she developed worsening edema in her legs, L>R. She did 
not have a rash at that time. She tried TEDS which did not help 
and was evaluated for a DVT but that was negative.
- About 2 weeks prior to her admission, she went to her PCP
because of ___ new rash in the left leg.
- Dermatology performed a biopsy on ___ which revealed
pan-dermal and subcutaneous malignant infiltrate most consistent
with diffuse B cell lymphoma, large cell type.
- She then began to have falls at home and was found down by her
___ on the day of admission (___). There was no documented
LOC, loss of sphincter control, or witnessed seizure activity.
 Her family also described periods of increased confusion and
making statements that don't make any sense since her diagnosis.
- In the ER, she underwent a trauma evaluation after her fall 
and she was found to have a 2 cm L frontal mass with surrounding
vasogenic edema.  C-spine, CXR and hip films were unremarkable.
- MRI head ___ confirmed an enhancing mass lesion in the
subcortical white matter of the left frontal lobe, approximately
2 cm, associated with vasogenic edema and effacement of the 
sulci.
- MRI spine ___ showed multilevel degenerative changes
throughout the cervical, thoracic, and lumbar spine as well as a 
focal lesion within the right psoas at the level of L3/L4, 
possibly consistent with a hematoma, calcification, or a 
metastasis.
- ECHO ___: Mild aortic valve stenosis. Mild symmetric left
ventricular hypertrophy with preserved global and regional
biventricular systolic function (LVEF >55%). Pulmonary artery
systolic hypertension.
- PET scan ___ revealed a 2-cm intracranial lymphoma
metastasis in the left frontal lobe, moderate intramuscular
lymphoma disease in the left biceps and right psoas, and
extensive lymphoma in the left calf with mild regional spread to
the left thigh and left inguinal nodes.
- brain biopsy ___ revealed B-cell lymphoma, favoring large
B-cell subtype.
- bone marrow biopsy on ___ was normal, no involvement by
lymphoma.
- received Cyberknife to the CNS lesion ___ (1500 cGy x 1
fraction).
- transferred to ___ service and began CHOP on ___
(vincristine capped at 2).
- she received Rituxan 375mg/m2 on ___.
- she received C2D1 of R-CHOP on ___.
- C3D1 R-CHOP ___.
- C4D1 RCHOP ___.
- fracture worsened on X-rays ___.
- ORIF L tibia and closed treatment of L fibular shaft fracture
performed on ___.
- C5D1 R-CHOP on ___.
- C6D1 R-CHOP on ___.
- ___ PET showed 9-mm FDG-avid lesion in the genu of the 
corpus callosum SUVmax 18.5 concerning for recurrence and 
FDG-avid focus in the right hilum SUVmax 5.3 without definite 
anatomic correlates.
- ___ Cycle #1 High-dose MTX.
 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___.
- No family history of premature CAD, SCD, stroke.
 
Physical Exam:
GEN: Comforatble, NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, no JVD, no LAD  
CV: Reg rate, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present
EXT: No c/c/e,good pedal pulses, left leg in cast.
SKIN: No rash, warm skin
NEURO: oriented x 3, normal attention, CN II-XII intact, ___ 
strength throughout, intact sensation to light touch, non focal.
PSYCH: appropriate
 
Pertinent Results:
___ 09:50AM BLOOD WBC-3.7* RBC-3.47* Hgb-11.9* Hct-32.6* 
MCV-94 MCH-34.3* MCHC-36.5* RDW-17.5* Plt ___
___ 09:50AM BLOOD ___ ___
___ 09:50AM BLOOD UreaN-18 Creat-0.9 Na-143 K-4.5 Cl-104 
HCO3-29 AnGap-15
___ 09:50AM BLOOD ALT-23 AST-23 LD(LDH)-236 AlkPhos-95 
TotBili-0.4
___ 09:50AM BLOOD Albumin-4.2 Calcium-10.4* Phos-3.4 Mg-1.9
___ 12:44PM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:44PM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-LG
___ 12:44PM URINE RBC-6* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-4
.
___ comparison to the ___ chest x-ray 
the previously seen right-sided PICC has been removed. A new 
left PICC has been placed terminating within the mid SVC. Lung 
volumes are low. There are no focal consolidations concerning 
for infectious process. There are no pleural effusions or 
pneumothoraces. 
.
URINE CULTURE (Final ___: 
Culture workup discontinued. Further incubation showed 
contamination
with mixed skin/genital flora. Clinical significance of 
isolate(s)
uncertain. Interpret with caution. 
CITROBACTER FREUNDII COMPLEX.    >100,000 ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             CITROBACTER FREUNDII COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------     8 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ yo woman with diabetes, hypertension, 
and chronic renal failure admitted for cycle #2 high-dose 
methotrexate (MTX).  
.  
# CNS lymphoma:Received high-dose MTX 3.5g/m2 on ___ 
reduced for age).Bicarbonate 1meq/kg IV prior to chemotherapy, 
25meq IV with chemotherapy, 150meq/1L bicarb in IV hydration and 
1300mg PO. Leucovorin rescue at 24 hours post-MTX. MTX levels 
checked at 24, 48, and 72 hours.On D/C MTX level <0.1. Pt 
tolerated treatment well w/o any adverse events. TMP-SMX, 
aspirin, and glipizide were held while receiving chemotherapy 
but resumed at discharge. Levetiracetam continued.
IV low dose  furosemide given one time for positive fluid 
balance and elevated blood pressure.  
.
# Diabetes:  Glipizide held during hospital stay but resumed on 
discharge. Patient covered with Insulin glargine + sliding scale 
during hospital stay.  
.  
# Asymtomatic bacteruria: U/A and culture sent because of h/o 
brief episode of confusion , per daughter. Patient initially 
started on cefriaxone. However, urine culture positive for a 
resistant bacteria. As patient remained asymptomatic and had no 
episodes of confusion antibiotics were held. 

.  
# Tibial/fibular fracture: Pathologic fractures due to 
chemoresponse of her lymphoma with distal fibular resorption. 
Orthopedic surgery consulted.  Continued bivalve cast with  no 
weight bearing until f/u with orthopedics in ___.  
.  
#HTN: A few measurements of high blood perssure. Not on 
antihypertensive meds at home. Likely due to IVF with 
bicarbonate. As above, patient received gentle diureses.  
.
# Constipation: Continued bowel regimen. 24 hrs post MTX dose 
patient had diarrhea which resolved after 24 hrs.
.  
#Anemia: Most likely chemo induced and dilutional. Will monitor. 
 
.  
# FEN: Regular diabetic diet/MTX diet. Metabolic alkalosis with 
bicarbonate administration. Replete lytes as needed.  
.  
# DVT prophylaxis: Fondaparinux.  
.  
# GI prophylaxis: PPI. Bowel regimen.  
.  
# Lines: PICC placed ___- removed prior to d/c.  
.  
# Precautions: Fall.  
.  
# CODE: DNR/DNI.  
.  

 
Medications on Admission:
ACYCLOVIR 400 mg PO q8hrs
ALLOPURINOL ___ mg PO once a day
CLOTRIMAZOLE 10 mg Troche dissolve PO QID
FOLIC ACID 1 mg Tablet PO daily
FONDAPARINUX 2.5mg/0.5 mL Syringe - Inject 2.5mg SC daily DVT 
ppx
GLIPIZIDE 5 mg Tablet PO daily
INSULIN GLARGINE [LANTUS] 100U/mL Solution - inject 12U SC qHS
LACTULOSE 10 gram/15 mL Solution - 30 gm PO daily PRN 
constipation
LEVETIRACETAM 250 mg PO BID
OMEPRAZOLE 40 mg Capsule PO daily
ONDANSETRON HCL - 8 mg Tablet PO Q8hrs PRN nausea
OXYCODONE 5 mg Tablet PO q4hrs PRN pain
POLYETHYLENE GLYCOL 3350 17 gram/dose Powder PO DAILY PRN 
constipation
PROCHLORPERAZINE MALEATE 10 mg PO Q6HR PRN nausea
SULFAMETHOXAZOLE-TRIMETHOPRIM 400mg-80 mg Tablet PO DAILY
ACETAMINOPHEN 650 mg PO QID PRN pain
ASCORBIC ACID ___ mg PO DAILY
ASPIRIN [ENTERIC COATED ASPIRIN] 81mg PO daily
CYANOCOBALAMIN (VITAMIN B-12) 1,000mcg PO DAILY
DOCUSATE SODIUM 100 mg PO BID
INSULIN REGULAR HUMAN [HUMULIN R] 100U/mL Solution - per sliding 

scale SC QIDACHS <150 = 0 units; 150-200 = 2U; 201-250 = 4U; 
251-300 = 6U; 301-350 = 8U, 351-400 = 10U, >400 = 12U.
MAGNESIUM HYDROXIDE [MILK OF MAGNESIA] 400mg/5mL 30 mL PO qHS 
PRN constipation
MULTIVITAMIN Tablet 1 mouth DAILY
SENNOSIDES [SENNA] 8.6 mg Tablet PO BID

 
Discharge Medications:
1. fondaparinux 2.5 mg/0.5 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily).  
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours.  
3. clotrimazole 10 mg Troche Sig: One (1)  Mucous membrane four 
times a day: dissolve in mouth.  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
5. glipizide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
6. insulin glargine 100 unit/mL Solution Sig: Twelve (12) units 
Subcutaneous at bedtime.  
7. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO once a 
day as needed for constipation.  
8. levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
9. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. glucagon (human recombinant) 1 mg Recon Soln Sig: One (1) 
Recon Soln Injection Q15MIN () as needed for hypoglycemia 
protocol: for glu < 70, use and call MD.  
11. ZOFRAN ODT 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
12. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
13. polyethylene glycol 3350 17 gram/dose Powder Sig: Seventeen 
(17) gram PO DAILY (Daily) as needed for constipation.  
14. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for nausea.  
15. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO once a day.  
16. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO four 
times a day as needed for pain.  
17. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO once a 
day. Tablet(s) 
18. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
19. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
20. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day): hold for loose stools.  
21. Insulin
Regular Human Insulin [Humulin R] give SQ per sliding scale 
QACHS.
< 70 call MD and give glucose, 71-150 = 0units; 151-200 = 
2units; 201-250 = 4units; 251-300 = 6units; 301-350 = 8units; 
351-400 = 10units; > 400 call MD
22. Milk of Magnesia 400 mg/5 mL Suspension Sig: Thirty (30) ml 
PO at bedtime as needed for constipation.  
23. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
24. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): hold for loose stools. Tablet(s) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
lymphoma
encounter for antineoplastic chemotherapy
anemia
leukopenia
asymptomatic bacteruria
constipation
pathological fracture of left limb

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms ___, you were admitted for chemotherapy treatment for 
the lymphoma involving your brain. You received IVF and 
leucovorin rescue as well. You tolerated the treatment well 
without any adverse effects. Your urine was checked and you have 
asymptomatic bacteria in your urine that does not need to be 
treated unless you develop signs or symptoms of an infection 
(pain or burning with urination).
.
The following changes have been made to your  medications;
STOP allopurinol
DECREASE prochlorperazine (compazine) from 10 mg to 5 mg every 6 
hours as needed for nausea
 
Followup Instructions:
___